US05192519
A tin (IV) chloride pentahydrate (Aldrich) solution was prepared by addition of the solid to distilled water; 20% colloidal alumina (AL-20, PQ Corp.) was stirred into this solution and a white precipitate formed. An aqueous potassium hydroxide (Fisher) solution was added to the tin chloride solution and stirred., colloidal silica (HS-40, DuPont) was added to the mixture (to give a final reactant ratio of 2K2 0:3.8SiO2 :SnO2 :0.1A12O3 :80H2O) and the resulting gel stirred until homogeneous. The gel was reacted in a polytetrafluoroethylene-lined autoclave (Parr) at 200° C. for 21 days to produce a white solid after the reactor was cooled to room temperature. This solid was washed repeatedly with distilled water, filtered, and dried to yield a fine white powder (Phase G). Chemical analysis indicated 13.67% K, 22.82% Sn, 18.69% Si, and 0.92% Al.

reactant | potassium hydroxide | [OH-].[K+]
reactant | tin chloride | [Sn](Cl)(Cl)(Cl)Cl
product | tin (IV) chloride pentahydrate | O.O.O.O.O.[Sn](Cl)(Cl)(Cl)Cl | InChI=1S/4ClH.5H2O.Sn/h4*1H;5*1H2;/q;;;;;;;;;+4/p-4
